US04960766
A mixture of acetic anhydride (38.86 ml) and formic acid (15.54 ml) was stirred at 45° C. for 45 minutes. To this mixture was added 5-amino-1-methylpyrazole (10 g) under ice-cooling, and the reaction mixture was stirred at the same temperature for 10 minutes. The resultant mixture was poured into a mixture of water and ethyl acetate, and the resultant solution was adjusted to pH 8 with potassium carbonate. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate six times. The organic layers were combined, dried over magnesium sulfate, and evaporated in vacuo to give 5-formamido-1-methylpyrazole (12.88 g).

reactant | acetic anhydride | 38.86 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 15.54 ml | C(=O)O | CH2O2
reactant | 5-amino-1-methylpyrazole | 10 g | NC1=CC=NN1C | C4H7N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-formamido-1-methylpyrazole | 12.88 g | C(=O)NC1=CC=NN1C | C5H7N3O
